US09193723B2
4-amino-N-isopentylbenzamide
N-Isopentyl-4-nitrobenzamide (1 g, 4.23 mmol) and methanol (40 ml) were added to palladium on carbon (0.200 g, 1.879 mmol) in a 250 mL SS pressure bottle and the mixture was stirred for 6 hours with hydrogen at 30 psi and room temperature. The mixture was filtered through a nylon membrane and concentrated to provide the title compound.

reactant | N-Isopentyl-4-nitrobenzamide | 4.23 mmol, 1 g | C(CC(C)C)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H16N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.879 mmol, 0.200 g | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
product | 4-amino-N-isopentylbenzamide | NC1=CC=C(C(=O)NCCC(C)C)C=C1 | C12H18N2O
